US07173031B2
B) 4-Chloro-5-methyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)pyrrolo[2,1-f][1,2,4]triazine
To a suspension of 4-hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carbohydrazide (100 mg, 0.48 mmol) in POCl3 (5 mL) was added AcOH (50 mg, 0.83 mmol). The reaction mixture was heated at 80° C. for 3 d, cooled to rt, and concentrated in vacuo. The resulting residue was dissolved in EtOAc and treated with sat. aq. NaHCO3 solution, brine, and dried over MgSO4. Filtration, followed by concentration, provide the title compound, which was used directly in next step. MS (ESI) m/z 250.1/252.1 (M+H)+.

reactant | 4-hydroxy-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carbohydrazide | 0.48 mmol, 100 mg | OC1=NC=NN2C1=C(C(=C2)C(=O)NN)C | C8H9N5O2
reactant | AcOH | 0.83 mmol, 50 mg | CC(=O)O | C2H4O2
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-methyl-6-(5-methyl-1,3,4-oxadiazol-2-yl)pyrrolo[2,1-f][1,2,4]triazine | ClC1=NC=NN2C1=C(C(=C2)C=2OC(=NN2)C)C | C10H8ClN5O
